US06992083B2
To a stirred solution of 130 g (4.27 mmol) [7-(3,6-dihydro-2H-pyran-4-yl)-4-methoxy-benzooxazol-2-yl]-carbamic acid methyl ester in 250 ml methanol and 250 ml dichoromethane was added 1.00 g of 10% palladium on charcoal, and the mixture was then stirred for 10 h at room temperature under an atmosphere of hydrogen. The mixture was then filtered, washing with dichloromethane/methanol (1/1), and the filtrate concentrated in vacuo to afford 1.30 g (100%) [4-methoxy-7-(tetrahydro-pyran-4-yl)-benzooxazol-2-yl]-carbamic acid methyl ester as an off-white solid. ES-MS m/e (%): 307 (M+H+, 100).

reactant | [7-(3,6-dihydro-2H-pyran-4-yl)-4-methoxy-benzooxazol-2-yl]-carbamic acid methyl ester | 4.27 mmol, 130 g | COC(NC=1OC2=C(N1)C(=CC=C2C=2CCOCC2)OC)=O | C15H16N2O5
solvent | methanol | 250 ml | CO | CH4O
solvent | dichoromethane | 250 ml | ClCCl | CH2Cl2
catalyst | palladium on charcoal | 1.00 g | [Pd] | Pd
product | [4-methoxy-7-(tetrahydro-pyran-4-yl)-benzooxazol-2-yl]-carbamic acid methyl ester | 1.30 g, 100% | COC(NC=1OC2=C(N1)C(=CC=C2C2CCOCC2)OC)=O | C15H18N2O5
